US05700921
A round bottomed flask was charged with 399.6 mg (1 eq., 1.495 mmole) (methoxycarbonyldithio)ethylamidosuccinic acid dissolved in 5 ml methanol, cooled to 0° C., purged with argon, and then treated dropwise with a solution of 110.9 mg (0.95 eq., 995.9 μl, 1.42 mmole) mercaptoethanol in 4 ml methanol over a 30 min period. The stirred solution was allowed to warm to room temperature over 1 hour and then stirred at this temperature for an additional 3.5 hours, after which, the solvent was evaporated on the rotary evaporator (bath temp. 30° C.). The residue was subjected to vacuum transfer for 0.5 hours to ensure that all mercaptoethanol was removed. The resultant white solid was then titurated with 3 ml ether and then the solid was pumped on the high vacuum for 10 min. (bath temp. 40° C.) to yield approximately 0.3 g of (2-hydroxyethyldithio)ethylamidosuccinic acid as a pure white solid. 1H NMR (d6DMSO/TMS) δ: 2.31 (2H, t, J=6.02 Hz, CH2), 2.41 (2H, t, J=6.39 Hz, CH2), 2.77 (4H, q, J=6.86 Hz, 2×CH2), 3.35 (2H, t, J=6.75 Hz, CH2), 3.60 (2H, t, J=6.46 Hz, CH2), 8.06 (1H, t, NH). 13C NMR (d6DMSO/TMS) δ: 30.53 (CH2), 31.62 (CH2), 38.46 (CH2), 39.68 (CH2), 42.11 (CH2), 61.27 (CH2), 174.76 (Q), 176.63 (Q).

reactant | (methoxycarbonyldithio)ethylamidosuccinic acid | 1.495 mmole, 399.6 mg, 1 eq. | COC(=O)SSCC(=O)NC(C(=O)O)CC(=O)O | C8H11NO7S2
reactant | mercaptoethanol | 1.42 mmole, 995.9 μl, 110.9 mg, 0.95 eq. | SC(C)O | C2H6OS
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
product | (2-hydroxyethyldithio)ethylamidosuccinic acid | approximately 0.3 g | OCCSSCC(=O)NC(C(=O)O)CC(=O)O | C8H13NO6S2
